US04505919
1-[3-(4-Chlorobenzylthio)-2-(2,4-dichlorophenyl)-2-hydroxypropyl]-1,2,4-triazole
2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane methanesulphonate salt (0.336 g, 1 mmole), 4-chlorobenzyl mercaptan, (0.159 g, 1 mmole) and anhydrous potassium carbonate (0.414 g, 3 mmole) were stirred in dry N,N-dimethylformamide (15 ml) at 70° C. for 72 hours. The reaction mixture was diluted with water (70 ml) and extracted with ethyl acetate (2×70 ml). The extracts were combined and evaporated to give an oil which crystallized on standing. Recrystallization from a mixture of ethyl acetate and n-hexane gave the title compound (0.23 g, 53%) m.p. 106°-107° C.

reactant | 2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane methanesulphonate salt | 1 mmole, 0.336 g | CS(=O)(=O)O.ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1N=CN=C1
reactant | 4-chlorobenzyl mercaptan | 1 mmole, 0.159 g | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | potassium carbonate | 3 mmole, 0.414 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 70 ml | O | H2O
product | 1-[3-(4-Chlorobenzylthio)-2-(2,4-dichlorophenyl)-2-hydroxypropyl]-1,2,4-triazole | 0.23 g, 53% | ClC1=CC=C(CSCC(CN2N=CN=C2)(O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C18H16Cl3N3OS
